US08119685B2
To a solution of 4-(dibenzylamino)benzoic acid (50 mg, 0.16 mmol) in DMF was added EDC (181 mg, 0.95 mmol), HOBt (128 mg, 0.95 mmol) and phenylenediamine (171 mg, 1.58 mmol) were which was allowed to stir at room temperature for 12 hours. The crude reaction mixture was diluted with EtOAc (20 mL) and then washed with sat.'d aq. NaHCO3 (1×10 mL). The organic layer was dried over MgSO4, filtered, and concentrated in vacuo. The crude residue was purified by reverse-phase chromatography (20-100% MeCN/H2O with 0.05% TFA). The appropriate fractions were combined, diluted with EtOAc (20 mL) and washed with sat.'d aq. NaHCO3 (1×10 mL). The organic layer was dried over MgSO4, filtered, and concentrated in vacuo to gave the desired N-(2-aminophenyl)-4-(dibenzylamino)benzamide: 1H NMR (600 MHz, MeOH-d4) δ 7.83 (d, J=9.0 Hz, 2H), 7.31 (m, 6H), 7.25 (m, 8H), 6.81 (d, J=9.1 Hz, 2H), 4.79 (s, 4H); cal'd 408.2 (MH+), exp 408.2 (MH+).

reactant | 4-(dibenzylamino)benzoic acid | 0.16 mmol, 50 mg | C(C1=CC=CC=C1)N(C1=CC=C(C(=O)O)C=C1)CC1=CC=CC=C1 | C21H19NO2
reactant | EDC | 0.95 mmol, 181 mg
reactant | HOBt | 0.95 mmol, 128 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | phenylenediamine | 1.58 mmol, 171 mg | C1(=C(C=CC=C1)N)N | C6H8N2
solvent | DMF | CN(C)C=O | C3H7NO
solvent | EtOAc | 20 mL | CCOC(=O)C | C4H8O2
product | N-(2-aminophenyl)-4-(dibenzylamino)benzamide | NC1=C(C=CC=C1)NC(C1=CC=C(C=C1)N(CC1=CC=CC=C1)CC1=CC=CC=C1)=O | C27H25N3O
